US08211901B2
Preparation of N-(4-((2-aminophenyl)carbamoyl)benzyl)-6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthamide
The title compound (43.1 mg, 72% yield) was prepared as a brown solid from 6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthoic acid (37.6 mg, 0.1 mmol) and 4-(aminomethyl)-N-(2-aminophenyl)benzamide (28.9 mg, 0.12 mmol) by an analogous procedure to that described in example 16. LC-MS (m/z) 600 (M+1).

reactant | 6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthoic acid | 0.1 mmol, 37.6 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C21H16N2O5
reactant | 4-(aminomethyl)-N-(2-aminophenyl)benzamide | 0.12 mmol, 28.9 mg | NCC1=CC=C(C(=O)NC2=C(C=CC=C2)N)C=C1 | C14H15N3O
product | N-(4-((2-aminophenyl)carbamoyl)benzyl)-6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthamide | 43.1 mg, 72% yield | NC1=C(C=CC=C1)NC(=O)C1=CC=C(CNC(=O)C2=CC=CC3=CC(=CC=C23)OC2=NC=NC3=CC(=C(C=C23)OC)OC)C=C1 | C35H29N5O5
